US06284748B1
A solution of 5-amino-4,6-dichloropyrimidine (1 mmol) in nBuOH was treated with Et3N (1.2 mmol) and phenethylamine (1.05 mmol) at 80° C. After 12 h, the cooled reaction mixture was evaporated under vacuum and the residue was chromatographed to give 6-chloro-5-amino-4-(phenethylamino)-pyrimidine as a yellow solid. mp 156-157° C.; TLC: Rf=0.41, 50% EtOAc-hexane.

reactant | 5-amino-4,6-dichloropyrimidine | 1 mmol | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | Et3N | 1.2 mmol | CCN(CC)CC | C6H15N
reactant | phenethylamine | 1.05 mmol | C(CC1=CC=CC=C1)N | C8H11N
solvent | nBuOH | C(CCC)O | C4H10O
product | 6-chloro-5-amino-4-(phenethylamino)-pyrimidine | ClC1=C(C(=NC=N1)NCCC1=CC=CC=C1)N | C12H13ClN4
